US04329347
6-[4-(N-Oxido-2-pyridyl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril and 2-mercapto-pyridine-N-oxide.

reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 2-mercapto-pyridine-N-oxide | SC1=[N+](C=CC=C1)[O-] | C5H5NOS
product | 6-[4-(N-Oxido-2-pyridyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | [O-][N+]1=C(C=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C18H20N2O3S
